US06458772B1
b) Synthesis of benzyl-2-(N-FMOC-L-valyloxy)stearate
To a solution of benzyl-2-hydroxystearate (3.2 g, 8.2 mmole), N-FMOC-L-valine (3.4 g, 10 mmole) and DMAP (0.12 g, 1 mmole) in 80 ml dichloromethane was added a solution of DCC (2.5 g, 12 mmole) and the mixture was stirred overnight at room temperature. The mixture was cooled to 5° C. and the urethane was filtered. The filtrate was evaporated and the product was isolated by silica gel column chromatography. Yield: 4.5 g

reactant | benzyl-2-hydroxystearate | 8.2 mmole, 3.2 g | C(C1=CC=CC=C1)OC(C(CCCCCCCCCCCCCCCC)O)=O | C25H42O3
reactant | N-FMOC-L-valine | 10 mmole, 3.4 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)O | C20H21NO4
reactant | DCC | 12 mmole, 2.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1 mmole, 0.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | benzyl-2-(N-FMOC-L-valyloxy)stearate | C(C1=CC=CC=C1)OC(C(CCCCCCCCCCCCCCCC)OC([C@@H](NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C)C)=O)=O | C45H61NO6
